US05155122
2-Methoxyethoxymethyl chloride (4.1 g, 0.032 mole) is added dropwise to a 0° C. mixture of 3,5-bis(1,1-dimethylethyl)-4-hydroxybenzonitrile (Louis A. Cohen, Journal of Organic Chemistry 22, 1333, 1957) (5.0 g, 0.022 mole) and diisopropylaminomethane (4.2 g, 0.032 mole) in methylene chloride (50 ml). The mixture is allowed to warm to room temperature and stir 18 hours. The solution is diluted with methylene chloride (25 ml) and washed with water (25 ml), cold 2M HCl (20 ml), saturated aqueous NaCl, and dried over MgSO4. Filtered and concentrated in vacuo to obtain 6.7 g (6.9 g theor., 97%) of 3,5-bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy)methoxy]benzonitrile as a yellow oil.

reactant | 2-Methoxyethoxymethyl chloride | 0.032 mole, 4.1 g | COCCOCCl | C4H9ClO2
reactant | 3,5-bis(1,1-dimethylethyl)-4-hydroxybenzonitrile | 0.022 mole, 5.0 g | CC(C)(C)C=1C=C(C#N)C=C(C1O)C(C)(C)C | C15H21NO
reactant | diisopropylaminomethane | 0.032 mole, 4.2 g | C(C)(C)N(C(C)C)C | C7H17N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 3,5-bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy)methoxy]benzonitrile | 6.7 g, 97% | CC(C)(C)C=1C=C(C#N)C=C(C1OCOCCOC)C(C)(C)C | C19H29NO3
